US05580981
To a suspension of 14.3g of 2-chloro-3-nitropyridine in 90 mL of anhydrous ethanol was slowly added over 2-3 min with swirling 18 mL of 95% hydrazine. A new solid took the place of the chloro compound as spontaneous warming occurs. After 20 min at room temperature, filtration and washing with ethanol gave 15 g of 2-hydrazino-3-nitropyridine as a straw-yellow solid. To 4 g of the crude hydrazine suspended in 24 mL of anhydrous ethanol was added 16 mL of 95% hydrazine, and the mixture was warmed on a hot plate until the solid dissolved to give a deep red-colored solution and a spontaneous reaction set in with bubbling. The mixture was removed from the source of heat and the reaction allowed to proceed. After 5 min, the mixture was again heated to the boiling point and removed from the hot plate for 5 min. The mixture was treated twice more in this manner after which the deeply-colored solution had become lighter in color (reddish yellow). The solution was evaporated in a warm bath with a water aspirator to a brown oily material which was dissolved in 12 mL of water and acidified (Congo Red) with conc. HCl. Recrystallization from water (Norite) gave 1.10 (31%) of the hydroxytriazole as yellow-colored crystals, mp 203°-211° dec.

reactant | 2-chloro-3-nitropyridine | 14.3g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | hydrazine | 18 mL | NN | H4N2
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | 2-hydrazino-3-nitropyridine | 15 g | N(N)C1=NC=CC=C1[N+](=O)[O-] | C5H6N4O2
